US07625908B2
The procedure described in Example 3 (preparation of starting materials) was repeated using glycolic acid and 2-chloro-4-[(5-{[(2R)-2-(methylamino)propyl]oxy}quinazolin-4-yl)amino]phenol to give N-[(1R)-2-({4-[(3-chloro-4-hydroxyphenyl)amino]quinazolin-5-yl}oxy)-1-methylethyl]-2-hydroxy-N-methylacetamide in 100% yield; Mass spectrum MH+ 416.9.

reactant | glycolic acid | C(CO)(=O)O | C2H4O3
reactant | 2-chloro-4-[(5-{[(2R)-2-(methylamino)propyl]oxy}quinazolin-4-yl)amino]phenol | ClC1=C(C=CC(=C1)NC1=NC=NC2=CC=CC(=C12)OC[C@@H](C)NC)O | C18H19ClN4O2
product | N-[(1R)-2-({4-[(3-chloro-4-hydroxyphenyl)amino]quinazolin-5-yl}oxy)-1-methylethyl]-2-hydroxy-N-methylacetamide | 100% yield | ClC=1C=C(C=CC1O)NC1=NC=NC2=CC=CC(=C12)OC[C@@H](C)N(C(CO)=O)C | C20H21ClN4O4
